US04631274
To a solution of benzhydryl 7-(4-bromo-3-oxobutyramido)-3-[(E)-2-chlorovinyl]-3-cephem-4-carboxylate (1.2 g) in a mixture of tetrahydrofuran (15 ml) and ethyl alcohol (15 ml) was added thiourea (0.46 g). The mixture was stirred for an hour at 30° C., poured into an aqueous solution of sodium bicarbonate and extracted with ethyl acetate. The extract was washed with 10% aqueous solution of sodium chloride and dried over magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was triturated with diisopropyl ether and collected by filtration to give benzhydryl 7-[2-(2-aminothiazol-4-yl)acetamido]-3-[(E)-2-chlorovinyl]-3-cephem-4-carboxylate (0.83 g).

reactant | benzhydryl 7-(4-bromo-3-oxobutyramido)-3-[(E)-2-chlorovinyl]-3-cephem-4-carboxylate | 1.2 g | BrCC(CC(=O)NC1[C@@H]2N(C(=C(CS2)\C=C\Cl)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=O | C26H22BrClN2O5S
reactant | thiourea | 0.46 g | NC(=S)N | CH4N2S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | ethyl alcohol | 15 ml | C(C)O | C2H6O
product | benzhydryl 7-[2-(2-aminothiazol-4-yl)acetamido]-3-[(E)-2-chlorovinyl]-3-cephem-4-carboxylate | 0.83 g | NC=1SC=C(N1)CC(=O)NC1[C@@H]2N(C(=C(CS2)\C=C\Cl)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C27H23ClN4O4S2
